US04880817
4-Amino-3-(diethylcarbamyloxy)-6,7-dimethoxy-1-methylisoquinoline (31)
A slurry of 3-(diethylcarbamyloxy)-6,7-dimethoxy-1-methyl-4-nitroisoquinoline (500 mg, 1.38 mmol) in methanol (50 mL) was hydrogenated in a Parr hydrogenator over 10% Pd/C (100 mg) for 4 hours. The reaction mixture was filtered through a celite pad, the solids were washed with methanol and the combined filtrate and washings were evaporated to dryness in vacuo to yield a yellow solid residue. One recrystallization from methylene chloride/ether afforded pure title compound (437 mg, 95.3%), mp 206°-207° C. IR (KBr) 3455, 3340, 3220, 1720, 1655, 1495, 1440, 1265, 1160 cm-1 ; NMR (CDCl3): δ 1.25 and 1.30 (two partly superimposed br t, 6H, N(CH2CH3)2 ], 2.67 (s, 3H, 1-CH3), 3.20-3.70 [br m, 4H, N(CH2CH3)2 ], 3.93 (s, 3H, OCH3), 3.98 (s, 3H, OCH3), 6.82 (s, 1H, 5- or 8-H), 6.93 (s, 1H, 5- or 8-H); MS (DCI): 334 (MH)+

reactant | 3-(diethylcarbamyloxy)-6,7-dimethoxy-1-methyl-4-nitroisoquinoline | 1.38 mmol, 500 mg | C(C)N(C(=O)OC=1N=C(C2=CC(=C(C=C2C1[N+](=O)[O-])OC)OC)C)CC | C17H21N3O6
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 4-Amino-3-(diethylcarbamyloxy)-6,7-dimethoxy-1-methylisoquinoline | NC1=C(N=C(C2=CC(=C(C=C12)OC)OC)C)OC(N(CC)CC)=O | C17H23N3O4
